US03995052
1-Methyl-1,3,4,9-tetrahydroindeno[2,1-c]pyran-1-methanol (9.0 g), described in Example 462, is dissolved in dry pyridine (20 ml.). p-Toluenesulfonyl chloride (7.4 g) is added portionwise to the vigorously stirred and cooled solution. The mixture is stirred further at 0° C for 1 hr., ice and water is then added and the aqueous mixture is extracted with ether. The combined ether extracts are washed with 10% ice-cold hydrochloric acid, water, 5% sodium bicarbonate water and dried (Na2SO4). Concentration of the extracts affords 1-methyl-1,3,4,9-tetrahydroindeno[2,1-c]pyran-1-methyl tosylate.

reactant | 1-Methyl-1,3,4,9-tetrahydroindeno[2,1-c]pyran-1-methanol | 9.0 g | CC1(OCCC2=C1CC=1C=CC=CC12)CO | C14H16O2
reactant | p-Toluenesulfonyl chloride | 7.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1-methyl-1,3,4,9-tetrahydroindeno[2,1-c]pyran 1-methyl tosylate | CC1OCCC2=C1CC=1C=CC=CC12.S(=O)(=O)(OC)C1=CC=C(C)C=C1 | InChI=1S/C13H14O.C8H10O3S/c1-9-13-8-10-4-2-3-5-11(10)12(13)6-7-14-9;1-7-3-5-8(6-4-7)12(9,10)11-2/h2-5,9H,6-8H2,1H3;3-6H,1-2H3
